US06174458B1
To a mixture of magnesium (600 mmol) and 1,300 ml of THF was added dropwise 1-bromo-3,5-difluorobenzene (500 mmol) at room temperature, and stirred at the same temperature for 30 min to prepare a Grignard reagent. To this solution was added dropwise a mixture of 4-pentylcyclohexanone (600 mmol) and 200 ml of THF, and stirred at the same temperature overnight. After 600 ml of 1N hydrochloric acid was added and stirred for 30 min, the reaction solution was extracted twice with diethyl ether and dried over anhydrous magnesium sulfate. The solvent was distilled off to give a (1-hydroxy-4-pentylcyclohexyl)-3,5-difluorobenzene (550 mmol). Purification was not particularly performed.

reactant | magnesium | 600 mmol | [Mg] | Mg
reactant | 1-bromo-3,5-difluorobenzene | 500 mmol | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | 4-pentylcyclohexanone | 600 mmol | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | hydrochloric acid | 1N, 600 ml | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 1,300 ml | C1CCOC1 | C4H8O
product | (1-hydroxy-4-pentylcyclohexyl)-3,5-difluorobenzene | 550 mmol | OC1(CCC(CC1)CCCCC)C1=CC(=CC(=C1)F)F | C17H24F2O
